US07951805B2
Titanium isopropoxide (2.5 mL, 8.46 mmol) was added to a solution of 2-aminobenzotrifluoride (0.6 mL, 4.82 mmol) and 1-Boc-4-piperidone (1.05 g, 5.26 mmol)) in THF (3 mL), the resulting mixture was stirred at ambient temperature for 4 hours, then sodium cyanoborohydride (0.800 g, 12.73 mmol) was added. The stirring was continued overnight. Aqueous sodium hydroxide (2.0 mL, 1.0 M) was added and the mixture was stirred for another 15 minutes. The reaction mixture was diluted with ethyl acetate (250 mL), washed with water, and brine, dried over anhydrous Na2SO4, and concentrated. The residue was purified by flash chromatography to afford 4-(2-trifluoromethylphenylamino)piperidine-1-carboxylic acid tert-butyl ester (1.58 g, 95%). MS (ES+) m/z 345.1 (M+1).

reactant | 2-aminobenzotrifluoride | 4.82 mmol, 0.6 mL | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | 1-Boc-4-piperidone | 5.26 mmol, 1.05 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | sodium cyanoborohydride | 12.73 mmol, 0.800 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1.0 M, 2.0 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | Titanium isopropoxide | 8.46 mmol, 2.5 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-(2-trifluoromethylphenylamino)piperidine-1-carboxylic acid tert-butyl ester | 1.58 g, 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C17H23F3N2O2
